US08735586B2
6-Fluoro-2-methyl-1-phenyl-1H-benzoimidazole
The title compound was prepared with the analogous procedure described in example 3 using 1-Bromo-5-fluoro-2-nitrobenzene and N-phenylacetamide (81 mg, 0.6 mmol) as starting materials to yield the title compound as brown solid (75 mg, 66%). 1H NMR (DMSO) δ 2.50 (s, 3 H), 7.11 (d, 1 H), 7.21-7.29 (m, 1H), 7.59-7.69 (m, 5 H), 7.79 (br s, 1 H).

reactant | 1-Bromo-5-fluoro-2-nitrobenzene | BrC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3BrFNO2
reactant | N-phenylacetamide | 0.6 mmol, 81 mg | C1(=CC=CC=C1)NC(C)=O | C8H9NO
product | 6-Fluoro-2-methyl-1-phenyl-1H-benzoimidazole | 75 mg, 66% | FC=1C=CC2=C(N(C(=N2)C)C2=CC=CC=C2)C1 | C14H11FN2
